US08193236B2
(6-Cyano-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester
2-Amino-5-cyanopyridine (5.0 g, 39.9 mmol) and ethyl-(E)-4-oxobutenoate (5.92 g, 43.9 mmol, 1.1 equiv) are dissolved in acetonitrile (25 ml). The solution is heated for 14 hours at 90° C. After cooling, volatiles are removed in vacuo, and the residue is purified by flash chromatography (gradient hexane/EtOAc 100:0 to 50:50) to afford the title compound (2.77 g, 29%). 1H NMR (400 MHz, d6-DMSO): δ=9.17-9.15 (m, 1H), 7.60 (dd, J=9.3/1.0 Hz, 1H), 7.54 (s, 1H), 7.37 (dd, J=9.3/1.7 Hz, 1H), 4.07 (s, 2H), 3.99 (q, J=7.4 Hz, 2H), 1.07 (t, J=7.1 Hz, 3H). MS (ES+): 230 (M+H)+.

reactant | 2-Amino-5-cyanopyridine | 39.9 mmol, 5.0 g | NC1=NC=C(C=C1)C#N | C6H5N3
reactant | ethyl-(E)-4-oxobutenoate | 43.9 mmol, 5.92 g, 1.1 equiv | C(C)OC(\C=C\C=O)=O | C6H8O3
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | (6-Cyano-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester | 2.77 g, 29% | C(C)OC(CC1=CN=C2N1C=C(C=C2)C#N)=O | C12H11N3O2
